US06956050B2
STEP 1. tert-butyl 2-{4-[2-ethyl-4-(2-pyridinyl)-1H-imidazol-1-yl]phenyl}ethylcarbamate
The title compound was prepared according to the procedure described in step 4 of Example 26 from tert-butyl 2-[4-(propanimidoylamino)phenyl]ethylcarbamate and 2-bromo-1-(2-pyridinyl)ethanone hydrobromide (J. Org. Chem., 1996, 61, 4623). MS (ESI) m/z 393 [M+H]+.

reactant | tert-butyl 2-[4-(propanimidoylamino)phenyl]ethylcarbamate | C(CC)(=N)NC1=CC=C(C=C1)CCNC(OC(C)(C)C)=O | C16H25N3O2
reactant | 2-bromo-1-(2-pyridinyl)ethanone hydrobromide | Br.BrCC(=O)C1=NC=CC=C1
product | tert-butyl 2-{4-[2-ethyl-4-(2-pyridinyl)-1H-imidazol-1-yl]phenyl}ethylcarbamate | C(C)C=1N(C=C(N1)C1=NC=CC=C1)C1=CC=C(C=C1)CCNC(OC(C)(C)C)=O | C23H28N4O2
